US06573402B1
By following the similar procedure in Synthesis Example 1 by using 5-aminosalicylic acid (500 mg, 3.26 mmole) and 4-nitrobenzoyl chloride (700 mg, 3.77 mmole), 550 mg (56% yield) of 5-(4-nitrobenzoyl)aminosalicylic acid was obtained as a pale yellow solid.: mp 270-271 ° C.

reactant | 5-aminosalicylic acid | 3.26 mmole, 500 mg | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | 4-nitrobenzoyl chloride | 3.77 mmole, 700 mg | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | 5-(4-nitrobenzoyl)aminosalicylic acid | 550 mg, 56% yield | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=C(C(C(=O)O)=C2)O)C=C1 | C14H10N2O6
